Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Neomycin / Erythromycin Base / Keflex / Clindamycin
 
Attending: ___.
 
Chief Complaint:
Right BKA stump ischemia
 
Major Surgical or Invasive Procedure:
Right iliofemoral thrombectomy with patch angioplasty and 
placement of a right common iliac stent.
 
History of Present Illness:
Ms. ___ is a ___ with an extensive vascular history who
previously underwent an aortobifemoral graft as well as several
bypass grafts to the right lower extremity to salvage the limb
that ultimately resulted in a right BK amputation ___ years ago.
She was last seen in clinic with Dr. ___ in ___. Over the
last several weeks, she has been having increasing right stump
pain and coolness. She was seen by her PCP who sent her for a 
CTA at OSH on ___ demonstrating an occluded R iliac graft and
occluded CFA, SFA, PFA, popliteal a and occluded bypass grafts.
She was referred to Dr. ___ evaluation. 
She has been ambulating on a prosthesis and notes that there is
worsening pain and erythema of the stump that improves slightly
with rest.
 
Past Medical History:
Past Medical History: HTN, HLD, PVD

Past Surgical History:
ABF, R fem-akpop w PTFE ___, thrombectomy of ABF/R limb/R
fem-akpop bpg & rt. fem endartectomy ___, R fem-pt bpg
thrombectomy ___, R fem-pop thrombectomy ___, RABF limb
thrombectomy, expl of distal fem-pop graft, R fem-at bpg w
6mmmPTFE, L GSV exploration ___ 
redo R fem-pt w ptfe & takeback for thrombectomy ___,
hystrectomy (remote), R BKA ___
 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: AVSS BP 160/73
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: Clear to auscultation b/l
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Ext: Right BK stump erythema/blue discoloration cool. R fem
monophasic signal. Left fem triphasic signal, pop monophasic, dp
monophasic and pt monophasic. No ulcers or tissue loss. 

DISCHARGE PHYSICAL EXAM:
Vitals: T98.4, BP 128/69, HR 84, RR 22, 97% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: Clear to auscultation b/l
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Ext: Right BK stump warm, mild erythema. R fem
strong signal, groin soft, no signs of infections. Dopplerable 
right popliteal.  Left fem triphasic signal, pop monophasic, dp
monophasic and pt monophasic. No ulcers or tissue loss. 
 
Pertinent Results:
___ ANGIOGRAM FINDINGS
1. Patent proximal aortobifemoral bypass graft and patent
    left limb.
2. Patent bilateral single renal arteries with brisk
    nephrograms.
3. Occlusion of the right aortobifemoral graft limb.  The
    proximal portion of this graft was treated with a
    balloon
    expandable stent with residual thrombosis in the
    remainder of the limb after treatment.

___ CXR
IMPRESSION:  
Comparison to ___.  The lung volumes are normal.  
Normal size of the cardiac silhouette.  Normal hilar and 
mediastinal contours. No pneumonia, no pulmonary edema, no 
pleural effusions. 

___ 05:33AM BLOOD WBC-17.0* RBC-4.09 Hgb-12.9 Hct-38.0 
MCV-93 MCH-31.5 MCHC-33.9 RDW-13.8 RDWSD-46.8* Plt ___
___ 05:33AM BLOOD ___ PTT-52.1* ___
___ 05:33AM BLOOD Glucose-159* UreaN-6 Creat-0.4 Na-138 
K-3.1* Cl-100
___ 05:33AM BLOOD Calcium-8.6 Phos-3.7 Mg-1.8
___ 05:33AM BLOOD %HbA1c-6.0 eAG-126
___ 03:46PM BLOOD Type-ART pO2-172* pCO2-38 pH-7.43 
calTCO2-26 Base XS-1
___ 03:46PM BLOOD Lactate-3.1* Na-134 K-3.0*
___ 02:34PM BLOOD Hgb-14.3 calcHCT-43
___ 03:46PM BLOOD freeCa-1.29
 
Brief Hospital Course:
Ms. ___ is a ___ with an extensive vascular history status post 
aortobifem graft and a right BK amputation ___ years ago) 
admitted for treatment for stump ischemia.

Pt was started on a heparin drip with a goal PTT of 60-80. On 
___ she underwent right groin exploration with right 
iliofemoral thrombectomy with patch angioplasty and placement of 
a right common iliac stent. The procedure was uncomplicated. The 
pt was maintained on heparin drip post op and transitioned to 
rivaroxiban. There were no signs of infection at the incision. 
The right BKA stump was no longer cold post procedure.

Pt was discharged home on rivaroxiban with follow-up with Dr. 
___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO Frequency is Unknown 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Losartan Potassium 50 mg PO DAILY 
4. ALPRAZolam 0.5 mg PO Frequency is Unknown 
5. Endocet (oxyCODONE-acetaminophen) Other  oral Q4H 
6. Fentanyl Patch 25 mcg/h TD Q72H 
7. Albuterol Inhaler 2 PUFF IH Q6H 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN pain/headache  
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Atorvastatin 20 mg PO DAILY 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1 
4.  Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
5.  Rivaroxaban 20 mg PO DAILY peripheral vascualr disease, 
right iliac ___ thrombosis Duration: 2 Months 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1 
6.  ALPRAZolam 0.5 mg PO QHS:PRN anxiety  
7.  Endocet (oxyCODONE-acetaminophen) 1 tab oral Q4H  
8.  Albuterol Inhaler 2 PUFF IH Q6H  
9.  Fentanyl Patch 25 mcg/h TD Q72H  
10.  Hydrochlorothiazide 25 mg PO DAILY  
11.  Losartan Potassium 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right BKA stump ischemia, R iliac graft occlusion, peripheral 
vascular disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid 
(prosthetic, walker or cane).

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to ___ and 
underwent removal of the blood clot blocking the arteries in 
your right leg. You have now recovered from surgery and are 
ready to be discharged. Please follow the instructions below to 
continue your recovery:

WHAT TO EXPECT:
1. It is normal to feel tired, this will last for ___ weeks 
• You should get up out of bed every day and gradually increase 
your activity each day 
• Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
• Increase your activities as you can tolerate- do not do too 
much right away!
2. It is normal to have swelling of the leg you were operated 
on:
• Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
3. It is normal to have a decreased appetite, your appetite will 
return with time 
• You will probably lose your taste for food and lose some 
weight 
• Eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION:
• Take aspirin and statin as instructed 
• Follow your discharge medication instructions

ACTIVITIES:
• No driving until post-op visit and you are no longer taking 
pain medications
• Unless you were told not to bear any weight on operative foot: 

• You should get up every day, get dressed and walk
• You should gradually increase your activity
• You may up and down stairs, go outside and/or ride in a car
• Increase your activities as you can tolerate- do not do too 
much right away!
• No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
• You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed

CALL THE OFFICE FOR: ___
• Redness that extends away from your incision
• A sudden increase in pain that is not controlled with pain 
medication
• A sudden change in the ability to move or use your leg or the 
ability to feel your leg
• Temperature greater than 100.5F for 24 hours
• Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions

 
Followup Instructions:
___